US07855292B2
A. 5-(3,4-Dichloro-phenyl)-oxazole-4-carboxylic acid methyl ester
A solution of methyl isocyanoacetate (5.0 g, 50.0 mmol), 3,4-dichlorobenzoyl chloride (10.6 g, 50.0 mmol), and Et3N (20.9 mL, 150 mmol) was stirred in THF (20 mL) for 48 h at rt. The solution was concentrated, diluted with EtOAc, washed with water, dried (MgSO4), and concentrated to afford a solid. The solid was washed with hexanes and collected by filtration to provide 8.7 g (64%) of the desired product. HPLC: RT=9.68 min. MS (ESI+): mass calcd. for C11H7Cl2NO3, 270.98; m/z found, 272/274 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.29 (d, J=2.1, 1H), 8.03 (dd, J=8.5, 2.1, 1H), 7.94 (s, 1H), 7.56 (d, J=8.5, 1H), 3.98 (s, 3H).

reactant | methyl isocyanoacetate | 50.0 mmol, 5.0 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | 3,4-dichlorobenzoyl chloride | 50.0 mmol, 10.6 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | Et3N | 150 mmol, 20.9 mL | CCN(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(3,4-Dichloro-phenyl)-oxazole-4-carboxylic acid methyl ester | 8.7 g, 64% | COC(=O)C=1N=COC1C1=CC(=C(C=C1)Cl)Cl | C11H7Cl2NO3
